US05679821
Into a 200-ml four-necked glass flask equipped with a thermometer, condenser, stirrer, and dropping funnel were introduced 46.0 g (0.46 mol) of allyl acetate and 184 μl of a 0.05M benzonitrile solution of H2PtCl6.6H2O. The contents were heated to 60° C., followed by dropwise addition of 75.6 g (0.46 mol) of triethoxysilane thereto over a period of 30 minutes. Thereafter, the mixture was reacted at 60° C. for 3 hours. The reaction product was purified by vacuum distillation (88° to 85° C./2 mmHg). Thus, triethoxysilylpropyl acetate as the objective compound was obtained in a yield of 89.2% (purity determined by gas chromatography, 99.3%).

reactant | allyl acetate | 0.46 mol, 46.0 g | C(C)(=O)OCC=C | C5H8O2
reactant | triethoxysilane | 0.46 mol, 75.6 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
solvent | benzonitrile | 0.05M | C(C1=CC=CC=C1)#N | C7H5N
product | triethoxysilylpropyl acetate | yield of 89.2% | C(C)(=O)OCCC[Si](OCC)(OCC)OCC | C11H24O5Si
